US04496392
A solution of 25.4 g of 2-amino-4-methyl-6-methoxypyrimidine in 150 ml concentrated hydrochloric acid was cooled to ca. 0° C. and treated with a solution of 25.3 g of sodium nitrite in 50 ml water, added over a period of 30-40 minutes. The thick orange reaction mixture was stirred at room temperature for 4-5 hours and then adjusted to pH 10 by addition of 12.5N sodium hydroxide solution. The precipitate was filtered and extracted thoroughly with approximately 600 ml of hot ether. The organic layer was dried over magnesium sulfate and concentrated in vacuo to give 7.2 g of 2-chloro-4-methyl-6-methoxypyrimidine as a white, crystalline solid, m.p. 36°-38° C.

reactant | 2-amino-4-methyl-6-methoxypyrimidine | 25.4 g | NC1=NC(=CC(=N1)C)OC | C6H9N3O
reactant | sodium nitrite | 25.3 g | N(=O)[O-].[Na+]
reactant | sodium hydroxide | 12.5N | [OH-].[Na+]
reactant | hydrochloric acid | 150 ml | Cl | ClH
solvent | water | 50 ml | O | H2O
product | 2-chloro-4-methyl-6-methoxypyrimidine | 7.2 g | ClC1=NC(=CC(=N1)C)OC | C6H7ClN2O
